US08610345B2
A mixed solution of 2.3 g of 1-bromo-7-t-butylpyrene, 1.2 g of 4-methylphenylboronic acid, 3.8 g of tripotassium phosphate, 0.58 g of tetrabutylammonium bromide, 12 mg of palladium acetate and 30 ml of dimethylformamide was heated and stirred under a nitrogen gas stream at 130° C. for 2 hours. The solution was cooled to room temperature and 30 ml of water was poured into the solution, followed by extraction with 50 ml of dichloromethane. The organic layer was washed twice with 20 ml of water, dried over magnesium sulfate and then evaporated. The concentrate was purified by silica gel column chromatography and then vacuum-dried to obtain 1.5 g of 7-t-butyl-1-(4-methylphenyl)pyrene.

reactant | 1-bromo-7-t-butylpyrene | 2.3 g | BrC1=CC=C2C=CC3=CC(=CC4=CC=C1C2=C34)C(C)(C)C | C20H17Br
reactant | 4-methylphenylboronic acid | 1.2 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | tripotassium phosphate | 3.8 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium bromide | 0.58 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 12 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 30 ml | O | H2O
product | 7-t-butyl-1-(4-methylphenyl)pyrene | 1.5 g | C(C)(C)(C)C=1C=C2C=CC3=CC=C(C4=CC=C(C1)C2=C43)C4=CC=C(C=C4)C | C27H24
